* Testbench for the REAL 10-bit cdac.spice (bottom-plate sampling,
* no dummy compensation switch -- clean baseline matching the version
* the offset was originally measured on).
*
* Sweeps vin across three values (0.3V, 0.6V, 0.9V) via .step param, to
* check whether the kick/offset on vdac_postsample is a CONSTANT residual
* (input-independent, as the gate-overlap-feedthrough theory predicts) or
* whether it varies with vin (which would mean a fixed digital calibration
* constant is NOT a valid fix).
*
* For each vin, the testbench then steps through three representative
* codes: D=0, D=512 (MSB only), D=1023 (all switches to vref).
*
* Predicted vdac_postsample = vcm - vin  (before any code switching)
*   vin=0.3V -> predicted 0.600V
*   vin=0.6V -> predicted 0.300V
*   vin=0.9V -> predicted 0.000V
*
* Predicted vdac_D0/D512/D1023 = (vcm - vin) + vref*D/1024
* CAVEAT: D=1023 may approach/exceed VDD depending on vin, expect
* saturation/clipping there -- it's a stress test, not a clean linear
* check (same caveat as the original single-vin version of this file).
*
* .ic/UIC cold-start conditions are tied to {VIN_TEST} so each stepped
* run starts cleanly at vdac=0.9V (reset target) and vin_s/bp*=VIN_TEST
* (matching that step's vin), avoiding the DC-operating-point startup
* artifact found and fixed in the single-vin version of this testbench.

.lib /Users/nizansari/.volare/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include "cdac.spice"

* ============================================================
* Bootstrapped sampling switch (verified block, reused as-is)
* ============================================================
.subckt bootstrapped_switch VDD PHIBAR VOUT VIN
XQ0 VIN net1 VOUT 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XC_boot net3 net2 sky130_fd_pr__cap_mim_m3_1 W=15.6 L=15.6 MF=1
XQ5 net1 PHIBAR 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XQ4 VIN net1 net2 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XQ1 VDD net1 net3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XQ3 net2 PHIBAR 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XQ2 net3 PHIBAR net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends bootstrapped_switch

.param VIN_TEST = 0.6

Vvdd vdd 0 DC 1.8
Vvref vref 0 DC 1.8
Vvcm vcm 0 DC 0.9
Vvin vin 0 DC {VIN_TEST}

* phi_s: one-shot sample pulse, 300ns wide (matches measured 156.8ns
* 10-bit settling time with ~2x margin, same as sar_adc_tb.spice)
Vphi_s phi_s 0 PULSE(0 1.8 0 1n 1n 300n 10u)

* Bit sources: held at 0 during sample, then stepped through D=0, D=512,
* D=1023 -- each held flat for 500ns with sharp (1ns) transitions.
* D=0:    all bits 0 throughout (no source needed beyond DC 0... but use
*          PWL for consistency / easy future editing)
Vsw9 cdac_sw9 0 PWL(0 0  599n 0  600n 0  1099n 0  1100n 1  1599n 1  1600n 1  2099n 1)
Vsw8 cdac_sw8 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw7 cdac_sw7 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw6 cdac_sw6 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw5 cdac_sw5 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw4 cdac_sw4 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw3 cdac_sw3 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw2 cdac_sw2 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw1 cdac_sw1 0 PWL(0 0  1599n 0  1600n 1  2099n 1)
Vsw0 cdac_sw0 0 PWL(0 0  1599n 0  1600n 1  2099n 1)

Xcdac vdac cdac_sw9 cdac_sw8 cdac_sw7 cdac_sw6 cdac_sw5
+      cdac_sw4 cdac_sw3 cdac_sw2 cdac_sw1 cdac_sw0
+      vref vdd gnd vin phi_s vcm cdac

.ic v(vdac)=0.9 v(xcdac.vin_s)={VIN_TEST} v(xcdac.bp9)={VIN_TEST} v(xcdac.bp8)={VIN_TEST} v(xcdac.bp7)={VIN_TEST} v(xcdac.bp6)={VIN_TEST}
+   v(xcdac.bp5)={VIN_TEST} v(xcdac.bp4)={VIN_TEST} v(xcdac.bp3)={VIN_TEST} v(xcdac.bp2)={VIN_TEST} v(xcdac.bp1)={VIN_TEST} v(xcdac.bp0)={VIN_TEST} v(xcdac.bpt)={VIN_TEST}

.tran 100p 2.1u UIC

.probe v(vdac) v(phi_s) v(cdac_sw9) v(cdac_sw0)

* Checkpoints matching the 2-bit test, to isolate the same kick mechanism:
.meas tran vdac_after_sample find v(vdac) at=299n
.meas tran vdac_postsample   find v(vdac) at=599n

.meas tran vdac_D0    find v(vdac) at=1050n
.meas tran vdac_D512  find v(vdac) at=1550n
.meas tran vdac_D1023 find v(vdac) at=2050n

.end
